US07714126B2
Preparation of (2-ethoxy-ethyl)-methyl-(5-nitro-pyrimidin-2-yl)-amine
(2-Hydroxy-ethyl)-methyl-(5-nitro-pyrimidin-2-yl)-amine (198 mg, 1 mmol) in THF (15 mL) and DMF (3 mL) was stirred with 60% NaH in oil (60 mg, 1.75 mmol) for 1 hr. The mixture was cooled and to this was added ethyl iodide. The reaction mixture was allowed to stir overnight. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc was filtered, evaporated to dryness and used without further purification. Yield: 75 mg. ES-MS calcd for C9H14N4O3 (m/e) 226.24, obsd 227 (M+H).

reactant | (2-Hydroxy-ethyl)-methyl-(5-nitro-pyrimidin-2-yl)-amine | 1 mmol, 198 mg | OCCN(C1=NC=C(C=N1)[N+](=O)[O-])C | C7H10N4O3
reactant | NaH | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-ethoxy-ethyl)-methyl-(5-nitro-pyrimidin-2-yl)-amine | C(C)OCCN(C1=NC=C(C=N1)[N+](=O)[O-])C | C9H14N4O3
